US08541457B2
Synthesis of 4-Methyl-2-(4-trifluoromethoxybenzoylamino)thiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 4-trifluoromethoxybenzoyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 20% yield; m.p. 168-170° C.; 1H NMR (CDCl3, 300 MHz) δ 7.98 (d, J=8.8 Hz, 2H), 7.41-7.23 (m, 7H), 5.97 (t, J=5.6 Hz, 1H), 4.58 (d, J=5.6 Hz, 2H), 2.49 (s, 3H); MS (ES+) m/z 436.1 (M+1).

reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 4-Methyl-2-(4-trifluoromethoxybenzoylamino)thiazole-5-carboxylic Acid Benzylamide | 20% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)C | C20H16F3N3O3S
